US08124606B2
To a solution of 4-fluoro-N-methylbenzamide (6 g, 39.2 mmol) in DMSO (Volume: 24.0 mL) was added piperazine (16.87 g, 196 mmol) at 23° C. The reaction was stirred at 120° C. for 68 hr. The reaction mixture was poured into ice (261 g) and the reaction vessel was rinsed with H2O (˜50 mL). Next, celite (30 g) was added to aid the filtration. The resulting suspension was warmed to 100° C., cooled to ˜40° C., filtered, and rinsed with warm H2O (4×50 mL). The resulting solid was dried in vacuo. The filtrate was stirred at room temperature overnight affording a suspension. The suspension was filtered, rinsed with H2O (3×25 mL), and the resulting solid was dried in vacuo. The cloudy filtrate was filtered once again through a medium fitted funnel and rinsed with H2O (3×10 mL). Added NaCl (200.1 g) to the filtrate, cooled on ice, filtered, rinsed with cold H2O (3×25 mL), and dried the resulting solid in vacuo. Re-suspended the purified product in H2O (30 mL), stirred for 30 min at 23° C., filtered, rinsed with H2O (3×5 mL), and dried the resulting solid in vacuo. The purified product was re-suspended in ACN (25 mL), agitated for 10 min, and dried in vacuo. This procedure was repeated three times to provide N-methyl-4-(piperazin-1-yl)benzamide (5.64 g, 25.7 mmol, 65.7% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.29 (br. s., 1H) 2.74 (d, J=4.55 Hz, 3H) 2.77-2.86 (m, 4H) 3.08-3.18 (m, 4H) 6.91 (m, 2H) 7.69 (m, 2H) 8.13 (q, J=4.04 Hz, 1H). ESI-MS: m/z 220.2 (M+H)−. mp=153.9-156.5° C.

reactant | 4-fluoro-N-methylbenzamide | 39.2 mmol, 6 g | FC1=CC=C(C(=O)NC)C=C1 | C8H8FNO
reactant | piperazine | 196 mmol, 16.87 g | N1CCNCC1 | C4H10N2
solvent | DMSO | 24.0 mL | CS(=O)C | C2H6OS
product | N-methyl-4-(piperazin-1-yl)benzamide | 25.7 mmol, 5.64 g, 65.7% yield | CNC(C1=CC=C(C=C1)N1CCNCC1)=O | C12H17N3O
